US08486952B2
N2-(4-(4-Chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-chlorophenyl)-N4-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine
2-Chloro-7-(4-chlorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (101 mg, 0.343 mmol) was added to a solution of 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (77 mg, 0.343 mmol) in acetic acid (2 mL) and THF (2 mL). The reaction mixture was heated at 80° C. overnight. Partial conversion to the desired product was observed. The reaction was further heated at 120° C. for 6 h. The crude reaction mixture was purified by preparative HPLC. The appropriate fractions were evaporated to afford N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-chlorophenyl)-N4-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine, TFA salt (35.5 mg, 0.059 mmol, 17.19% yield). LC-MS (M+H)+=481.3. 1H NMR (500 MHz, CDCl3) δ ppm 11.08 (1H, s), 8.33 (1H, s), 7.48 (2H, d, J=2.1 Hz), 7.30 (2H, d, J=8.2 Hz), 7.20 (1H, d, J=1.5 Hz), 7.13 (2H, d, J=8.5 Hz), 5.83-5.93 (1H, m), 4.38-4.48 (1H, m), 3.97 (1H, s), 3.86 (3H, s), 3.22 (3H, d, J=4.9 Hz), 2.85-2.95 (1H, m), 2.77 (2H, dd, J=8.7, 5.3 Hz), 2.20-2.32 (1H, m).

reactant | 2-Chloro-7-(4-chlorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.343 mmol, 101 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)NC | C14H13Cl2N3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.343 mmol, 77 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N2-(4-(4-Chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-chlorophenyl)-N4-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)NC)OC | C24H22Cl2N6O
